US07265144B2
Step 1: Preparation of N,N-dibenzyl-2-bromobenzenesulfonamide
2-Bromobenzenesulfonyl chloride (1.0 g, 3.91 mmol) and triethylamine (455 mg, 0.63 mL, 4.5 mmol) were dissolved in THF (15 mL), and the mixture was cooled to 10° C. Dibenzylamine (849 mg, 0.83 mL, 4.3 mmol) was then added dropwise. The cooling bath was removed, and the reaction mixture was stirred for 10 h at rt and then an additional 6 h at 60° C. After cooling to rt, the solvent was removed under reduced pressure, and ethyl acetate was added. The organic layer was successively washed with 1N HCl, water, semi-saturated aq Na2CO3 solution, water, and brine. After drying with Na2SO4 and filtration, the solvent was removed under reduced pressure to afford the title compound as off-white crystals (1.44 g, 88%). 1H NMR (400 MHz, CDCl3) δ 4.42 (s, 4H), 7.08 (m, 4H), 7.27 (m, 6H), 7.41 (m, 2H), 7.78 (d, 1H), 8.19 (d, 1H).

reactant | 2-Bromobenzenesulfonyl chloride | 3.91 mmol, 1.0 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | 4.5 mmol, 0.63 mL, 455 mg | C(C)N(CC)CC | C6H15N
reactant | Dibenzylamine | 4.3 mmol, 0.83 mL, 849 mg | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N,N-dibenzyl-2-bromobenzenesulfonamide | 1.44 g, 88% | C(C1=CC=CC=C1)N(S(=O)(=O)C1=C(C=CC=C1)Br)CC1=CC=CC=C1 | C20H18BrNO2S
